US05091298
Step A--Preparation of Bromoacetyltaurine Sodium Salt
Taurine (50 g, 0.40 mol) and sodium carbonate (48 g, 0.45 mol) were combined with 250 mL of water in a 1-L flask and chilled in an ice bath (10° C.). Bromoacetyl bromide (100 g, 0.50 mol) in 250 mL of methylene chloride was added dropwise over a 1 hr period with rapid stirring while maintaining the temperature at 10°-15° C. After addition, the ice bath was removed and the mixture was stirred for 3 hr. The aqueous layer was separated and washed with two portions of methylene chloride, and most of the water was evaporated affording a moist white solid. The solid was washed thoroughly with acetone and dried (90 g, 85% yield). The product was purified by dissolving it in 1200 mL of hot methanol, filtering, and evaporating the methanol until the product crystallized out (volume ca 650 mL). This afforded 47 g (44% yield) of product; mp>250° C. Anal. Calcd. for C4H7BrNO4SNa: C, 17.9; H, 2.6; N, 5.4. Found: C, 17.6; H, 2.4; N, 4.5.

reactant | Taurine | 0.40 mol, 50 g | NCCS(=O)(=O)O | C2H7NO3S
reactant | sodium carbonate | 0.45 mol, 48 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 250 mL | O | H2O
reactant | Bromoacetyl bromide | 0.50 mol, 100 g | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
product | Bromoacetyltaurine Sodium Salt | 47 g, 44% yield | [Na+].BrCC(=O)NCCS(=O)(=O)[O-] | InChI=1S/C4H8BrNO4S.Na/c5-3-4(7)6-1-2-11(8,9)10;/h1-3H2,(H,6,7)(H,8,9,10);/q;+1/p-1
